US03988457
A mixture containing 7.0 g. of β-chloromethylnaphthalene, 6.56 g. of 2-pyridylpiperazine and 4.4 g. of sodium carbonate in 40 ml. of dimethylformamide is stirred on a steambath for 90 minutes. The reaction mixture is filtered and the filtrate stirred with ice water. The precipitate was filtered and recrystallized from isobutyl alcohol to yield 1-(β-napthylmethyl)-4-(2-pyridyl)piperazine having a melting point of 124°-126° C.

reactant | β-chloromethylnaphthalene | ClCC1=CC2=CC=CC=C2C=C1 | C11H9Cl
reactant | 2-pyridylpiperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(β-napthylmethyl)-4-(2-pyridyl)piperazine | C1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)C1=NC=CC=C1 | C20H21N3
